US09314468B2
Preparation of ethyl-9H-pyrido[3,4-b]indole-1-carboxylate (1).
To a suspension of tryptamine hydrochloride (2.00 g, 10.17 mmol) in ethanol (25 mL) was added a solution of glyoxylic acid ethyl ester (3.12 g, 15.26 mmol) in toluene (50% v/v) at 0° C. After the reaction mixture was stirred overnight at ambient temperature, the solvent was removed under reduced pressure. The resulting residue was treated with saturated aqueous sodium bicarbonate. The product was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The crude product was used in the next step without further purification.

reactant | tryptamine hydrochloride | 10.17 mmol, 2.00 g | Cl.NCCC1=CNC2=CC=CC=C12
reactant | glyoxylic acid ethyl ester | 15.26 mmol, 3.12 g | C(C)OC(C=O)=O | C4H6O3
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl-9H-pyrido[3,4-b]indole-1-carboxylate | C(C)OC(=O)C1=NC=CC2=C1NC1=CC=CC=C21 | C14H12N2O2
